US05302720
A mixture of 2-amino-4-methylbiphenyl hydrochloride (7.7 g) and 4-cyanomorpholine (5.9 g) in m-cresol (45 ml) was heated at 90°-95° C. for 15 hours to yield N-(4-methyl-2-biphenylyl)morpholine-4-carboxamidine (m.p. 154°-155° C.) which was recrystallised from hexane.

reactant | 2-amino-4-methylbiphenyl hydrochloride | 7.7 g | Cl.NC1=C(C=CC(=C1)C)C1=CC=CC=C1
reactant | 4-cyanomorpholine | 5.9 g | C(#N)N1CCOCC1 | C5H8N2O
solvent | m-cresol | 45 ml | C1=C(C=CC=C1O)C | C7H8O
product | N-(4-methyl-2-biphenylyl)morpholine-4-carboxamidine | CC1=CC(=C(C=C1)C1=CC=CC=C1)NC(=N)N1CCOCC1 | C18H21N3O
